US04151352
6-chloro-2,3-dihydro-2-ethoxycarbonylmethyl-s-triazolo[4,3-b]pyridazin-3-one (2)
To a solution of 6-chloro-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-one [P. Francavilla and F. Lauria, J. Het. Chem., 8, 415 (1971)](1, 1.00 g., 5.9 m.mole) in dry DMF (30 ml.) was added sodium hydride (50% in paraffin, 0.3 g., 6.3 m.mole) under stirring with formation of yellow crystals. To the mixture was added ethyl chloroacetate (1.4 ml., 13 m.mole) and the mixture was heated at 90° C. for 8 hours with stirring. After cooling, the reaction mixture was poured into water (50 ml) and extracted with toluene (5×40 ml.). The organic extracts were combined, dried over anhydrous sodium sulfate and evaporated at reduced pressure. The residue was crystallized with benzene-n-hexane to give yellow needles of 2 (1.16 g., 77%), m.p. 114°-115° C. (lit. 110° C.).

reactant | 6-chloro-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-one | ClC=1C=CC=2N(N1)C(NN2)=O | C5H3ClN4O
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | ethyl chloroacetate | 1.4 ml | ClCC(=O)OCC | C4H7ClO2
reactant | water | 50 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-chloro-2,3-dihydro-2-ethoxycarbonylmethyl-s-triazolo[4,3-b]pyridazin-3-one | ClC=1C=CC=2N(N1)C(N(N2)CC(=O)OCC)=O | C9H9ClN4O3
